US08614336B2
In this example, 2-acetylthiophene is used as the starting material for reacting with formaldehyde and dimethylamine to form a Mannich product, namely 3-dimethylamino-1-(2-thienyl)propan-1-one. A hydride reduction is performed on this propanone to form corresponding 3-dimethylamino-1-(2-thienyl)propan-1-ol. The resulting propanol is then reacted with fluoronaphthalene to form N,N-dimethyl-3-(1-naphthyloxy)-3-(2-thienyl)propylamine. Subsequently, racemic Duloxetine® is obtained by demethylation of this propylamine. In this process, the yield of demethylation is very low, about 41%. In addition, Duloxetine® produced via this route is racemic.

reactant | 2-acetylthiophene | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | formaldehyde | C=O | CH2O
reactant | dimethylamine | CNC | C2H7N
product | 3-dimethylamino-1-(2-thienyl)propan-1-one | CN(CCC(=O)C=1SC=CC1)C | C9H13NOS
